US07834019B2
1) Production of 3-(1-hydroxy-1-methylethyl)phenylboronic acid
In a nitrogen atmosphere, 33 mL of 1.66 M n-butyllithium/hexane solution was dropwise added to tetrahydrofuran (200 mL) solution of the obtained compound at −60° C. or lower, and stirred for 20 minutes. 11.08 mL of triisopropoxyborane was added to the reaction liquid, and stirred for 30 minutes. Water was added to the reaction liquid, washed with diethyl ether, and the resulting aqueous layer was made acidic with aqueous 10% phosphoric acid solution. This was extracted with ethyl acetate, washed with aqueous saturated sodium hydrogencarbonate solution and saturated saline water, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting crystal was collected to obtain 3.13 g of the entitled compound as a white solid.

reactant | n-butyllithium hexane | 1.66 M, 33 mL | C(CCC)[Li].CCCCCC
reactant | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
reactant | triisopropoxyborane | 11.08 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | Water | O | H2O
product | 3-(1-hydroxy-1-methylethyl)phenylboronic acid | 3.13 g | OC(C)(C)C=1C=C(C=CC1)B(O)O | C9H13BO3
